US07763639B2
1-(2-FLUORO-3-PIPERIDIN-4-YLPHENYL)ETHANONE
Preparation according to preparation 9: 1-(2-fluoro-3-pyridin-4-ylphenyl)ethanone (0.2 g, 0.93 mmol), hydrochloric acid (0.05 ml, conc.) methanol (5 ml), platinum oxide (0.02 g). Yield: 0.2 g. MS m/z (relative intensity, 70 eV) 221 (M+, 25), 220 (37), 178 (96), 149 (41) 101 (20).

reactant | 1-(2-fluoro-3-pyridin-4-ylphenyl)ethanone | 0.93 mmol, 0.2 g | FC1=C(C=CC=C1C1=CC=NC=C1)C(C)=O | C13H10FNO
reactant | hydrochloric acid | 0.05 ml | Cl | ClH
catalyst | platinum oxide | 0.02 g | [Pt]=O
solvent | methanol | 5 ml | CO | CH4O
product | 1-(2-FLUORO-3-PIPERIDIN-4-YLPHENYL)ETHANONE | FC1=C(C=CC=C1C1CCNCC1)C(C)=O | C13H16FNO
